US05616717
To a refluxed stirred mixture of 1.34 kg (55.8 moles) of magnesium in 6 L of t-butylmethyl ether (MTBE) and 4 g (0.016 moles) of iodine, a solution of 10 kg (55.9 moles) cyclohexylmethyl bromide in 22 L (MTBE) was added slowly. After approximately 10% to 25% of the solution was added, heating was discontinued and the remainder of the solution was added at a rate to maintain refluxing temperature. After the addition, the reaction was refluxed for an additional 24 hrs, then cooled to 0° to 5° C. and 3.903 kg (37.1 moles) of 2-cyanopyridine in 22 L MTBE was added at 0°-10° C. After the addition, the greenish thick suspension was stirred without cooling for 18-24 hrs. The Grignard reaction mixture was transferred with stirring to 40 L of methanol at 10° to 15° C. To the clear solution was added 1.4 kg (36.8 moles) of sodium borohydride. The mixture was stirred at room temperature 18 hrs., then quenched by the addition of 16 L of water and 36 L of 4N hydrochloric acid. The organic solvents were removed under vacuum and the remaining aqueous solution was washed twice with 6 L of methylene chloride. The aqueous phase was basified with 15 L of ammonium hydroxide solution and extracted three times with 10 L of methylene chloride. The methylene chloride was dried over 6.5 kg of sodium sulfate and concentrated to yield 5.645 kg (75%) of 1-(R,S)-(2-pyridyl)-2-cyclohexylethylamine.

reactant | magnesium | 55.8 moles, 1.34 kg | [Mg] | Mg
reactant | cyclohexylmethyl bromide | 55.9 moles, 10 kg | C1(CCCCC1)CBr | C7H13Br
reactant | 2-cyanopyridine | 37.1 moles, 3.903 kg | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | sodium borohydride | 36.8 moles, 1.4 kg | [BH4-].[Na+]
solvent | t-butylmethyl ether | 6 L | C(C)(C)(C)OC | C5H12O
solvent | MTBE | 22 L | CC(C)(C)OC | C5H12O
catalyst | iodine | 0.016 moles, 4 g | II | I2
solvent | methanol | 40 L | CO | CH4O
product | 1-(R,S)-(2-pyridyl)-2-cyclohexylethylamine | 5.645 kg, 75% | N1=C(C=CC=C1)C(CC1CCCCC1)N | C13H20N2
